US06242231B1
The reaction mixture was composed of 80 mM TES buffer (pH 7.5), 4 mM L-proline, 8 mM 2-ketoglutaric acid, 2 mM ferrous sulfate, 4 mM L-ascorbic acid, 2 mg/ml catalase and a pre-determined amount of the pure enzyme, the total volume being 500 μl. The reaction was initiated by addition of the enzyme and continued for 15 minutes at 30° C. The reaction was stopped by heating the reaction mixture at 100° C. for 2 minutes. The amount of trans-4-hydroxy-L-proline formed in the reaction mixture was determined by the pre-column derivatization method. One hundred microliter of 0.3M boric acid buffer (pH 10.7), 4 μl of aqueous solution of 10% (v/v) mercaptoethanol and 16 μl of ethanol solution of 5% (w/v) OPA were added to 100 μl of the reaction mixture, and the mixture was allowed to stand at 60° C. for 30 seconds. In addition, 50 μl of ethanol solution of 2% (W/V) NBD was added thereto and the mixture was allowed to stand at 60° C. for 40 minutes. The reaction was stopped by adding 30 μl of 1 N HCl to the reaction mixture, and the precipitates formed were removed therefrom by centrifugation and filtration. The trans-4-hydroxy-L-proline formed by the reaction was quantitatively determined by HPLC analysis.

reactant | L-proline | 4 mM | N1[C@H](C(=O)O)CCC1 | C5H9NO2
reactant | 2-ketoglutaric acid | 8 mM | O=C(C(=O)O)CCC(=O)O | C5H6O5
reactant | L-ascorbic acid | 4 mM | O=C1C(O)=C(O)[C@H](O1)[C@@H](O)CO | C6H8O6
product | trans-4-hydroxy-L-proline | O[C@@H]1C[C@H](NC1)C(=O)O | C5H9NO3
